US05276049
1-[4-(2-Methoxycarbonyl-ethyl)-phenyl]-3-(4-piperidinyl)-imidazolidin- 2-one
Prepared by treating 1-(1-benzyloxycarbonyl-4-piperidinyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one with hydrogen at 3 bars in the presence of 5% palladium/charcoal in methanol.

reactant | 1-(1-benzyloxycarbonyl-4-piperidinyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O | C26H31N3O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium/charcoal | [Pd] | Pd
product | 1-[4-(2-Methoxycarbonyl-ethyl)-phenyl]-3-(4-piperidinyl)-imidazolidin- 2-one | COC(=O)CCC1=CC=C(C=C1)N1C(N(CC1)C1CCNCC1)=O | C18H25N3O3
